US07074796B2
5-Bromo-1-(2,3-dihydro-1H-indol-1-yl)pentan-1-one
from 2,3-dihydro-1H-indole and 5-bromopentanoyl chloride

reactant | 2,3-dihydro-1H-indole | N1CCC2=CC=CC=C12 | C8H9N
reactant | 5-bromopentanoyl chloride | BrCCCCC(=O)Cl | C5H8BrClO
product | 5-Bromo-1-(2,3-dihydro-1H-indol-1-yl)pentan-1-one | BrCCCCC(=O)N1CCC2=CC=CC=C12 | C13H16BrNO
